US07384934B2
(S)-5-[3-(2-Methoxy-ethyl)-piperazin-1-yl]-8-trifluoromethyl-11H-12-thia-6,11-diaza-dibenzo[a,f]azulene dihydrochloride
Add a solution of acetyl chloride (0.078 mL, 1.1 mmol) in absolute ethanol to a solution of (S)-5-[3-(2-methoxy-ethyl)-piperazin-1-yl]-8-trifluoromethyl-11H-12-thia-6,11-diaza-dibenzo[a,f]azulene (0.10 g, 0.22 mmol) in absolute ethanol and isolate the precipitated solid by suction filtration. Dry the solid under reduced pressure to give the title compound (0.095 g). Exact mass spectrum (ES+, m/e, C23H23F3N4OS.2HCl): calc. 461.1623 (M+1-2HCl), found 461.1613.

reactant | acetyl chloride | 1.1 mmol, 0.078 mL | C(C)(=O)Cl | C2H3ClO
reactant | (S)-5-[3-(2-methoxy-ethyl)-piperazin-1-yl]-8-trifluoromethyl-11H-12-thia-6,11-diaza-dibenzo[a,f]azulene | 0.22 mmol, 0.10 g | COCC[C@H]1CN(CCN1)C1=NC2=C(NC=3SC4=C(C13)C=CC=C4)C=CC(=C2)C(F)(F)F | C23H23F3N4OS
solvent | ethanol | C(C)O | C2H6O
product | (S)-5-[3-(2-Methoxy-ethyl)-piperazin-1-yl]-8-trifluoromethyl-11H-12-thia-6,11-diaza-dibenzo[a,f]azulene dihydrochloride | 0.095 g | Cl.Cl.COCC[C@H]1CN(CCN1)C1=NC2=C(NC=3SC4=C(C13)C=CC=C4)C=CC(=C2)C(F)(F)F | InChI=1S/C23H23F3N4OS.2ClH/c1-31-11-8-15-13-30(10-9-27-15)21-20-16-4-2-3-5-19(16)32-22(20)29-17-7-6-14(23(24,25)26)12-18(17)28-21;;/h2-7,12,15,27,29H,8-11,13H2,1H3;2*1H/t15-;;/m0../s1
